US07276603B2
6-methoxy-8-{4-[2-(7-methoxy-1-benzofuran-3-yl)-1-methylethyl)piperazin-1-yl]quinoline was prepared by generally following the procedure outlined in example 35, step 2, starting from the 1-(7-methoxy-1-benzofuran-3-yl)acetone (204 mg, 1 mmol) and 6-methoxy-8-piperazino quinoline (243.0 mg, 1 mmol) in 1,2-dichloroethane (100 ml) and acetic acid (1 ml), sodium triacetoxyborohydride (422 mg, 2 mmol). The product was purified by silica-gel column chromatography by eluting it initially with 80% ethyl acetate:hexane and then with 5% methanol:ethyl acetate, yielding a brown semi-solid. Yield: 75 mg (17%); (M+H): 432.

reactant | 1-(7-methoxy-1-benzofuran-3-yl)acetone | 1 mmol, 204 mg | COC1=CC=CC=2C(=COC21)CC(=O)C | C12H12O3
reactant | 6-methoxy-8-piperazino quinoline | 1 mmol, 243.0 mg | COC=1C=C2C=CC=NC2=C(C1)N1CCNCC1 | C14H17N3O
reactant | sodium triacetoxyborohydride | 2 mmol, 422 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 6-methoxy-8-{4-[2-(7-methoxy-1-benzofuran-3-yl)-1-methylethyl)piperazin-1-yl]quinoline | COC=1C=C2C=CC=NC2=C(C1)N1CCN(CC1)C(CC1=COC2=C1C=CC=C2OC)C | C26H29N3O3
